US04766125
To 1 part of a solution of 2 parts of thiophene in 40 parts of ethanol were added 3 parts of 4-[4,4-bis(4-fluorophenyl)butyl]-N-(2,6-dimethyl-4-nitrophenyl)-2-[(methylamino)carbonyl]-1-piperazineacetamide and 120 parts of methanol. The whole was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was suspended in 2,2'-oxybispropane, yielding 2.14 parts of N-(4-amino-2,6-dimethylphenyl)-4-[4,4-bis(4-fluorophenyl)butyl]-2-[(methylamino)carbonyl]-1-piperazineacetamide; mp. 111.7° C. (compound 162).

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | ethanol | C(C)O | C2H6O
reactant | 4-[4,4-bis(4-fluorophenyl)butyl]-N-(2,6-dimethyl-4-nitrophenyl)-2-[(methylamino)carbonyl]-1-piperazineacetamide | FC1=CC=C(C=C1)C(CCCN1CC(N(CC1)CC(=O)NC1=C(C=C(C=C1C)[N+](=O)[O-])C)C(=O)NC)C1=CC=C(C=C1)F | C32H37F2N5O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-(4-amino-2,6-dimethylphenyl)-4-[4,4-bis(4-fluorophenyl)butyl]-2-[(methylamino)carbonyl]-1-piperazineacetamide | NC1=CC(=C(C(=C1)C)NC(CN1C(CN(CC1)CCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)NC)=O)C | C32H39F2N5O2
